US09120805B2
Under nitrogen, 43.4 mg (1.14 mmol) lithiumaluminiumhydride is added to a solution of 194 mg (0.571 mmol) 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester (for preparation see previous example) in 20 ml THF. The reaction mixture is stirred at ambient temperature for two hours. A few drops of methanol and then 2 ml 2 N aqueous HCl solution are added slowly to the reaction mixture. It is then filtered over a pad of celite. The filtrate is evaporated and the residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to give 6-(4-tert-butyl-phenyl)-2-hydroxymethyl-5H-pyrazolo[1,5-a]pyrazin-4-one (“A18”) as white powder; HPLC/MS: 1.72 (C), [M+H] 298; 1H NMR (400 MHz, DMSO-d6) δ [ppm] 11.46 (s, 1H), 7.94 (s, 1H), 7.67 (d, J=8.5, 2H), 7.49 (d, J=8.5, 2H), 6.91 (s, 1H), 5.28 (bs, 1H), 4.59 (s, 2H), 1.31 (s, 9H).

reactant | lithiumaluminiumhydride | 1.14 mmol, 43.4 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester | 0.571 mmol, 194 mg | C(C)OC(=O)C1=NN2C(C(NC(=C2)C2=CC=C(C=C2)C(C)(C)C)=O)=C1 | C19H21N3O3
reactant | HCl | 2 N, 2 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | methanol | A few drops | CO | CH4O
product | 6-(4-tert-butyl-phenyl)-2-hydroxymethyl-5H-pyrazolo[1,5-a]pyrazin-4-one | C(C)(C)(C)C1=CC=C(C=C1)C=1NC(C=2N(C1)N=C(C2)CO)=O | C17H19N3O2
